Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / ibuprofen
 
Attending: ___.
 
Chief Complaint:
Syncope, head injury
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMH sig for alcoholism and HTN who is transferred from 
OSH (___) w/ R temporal bone fracture and SAH after fall w/ head 
strike. Pt was walking down steps at her home when she fell 
yesterday morning. She had 1 bottle of wine to drink before 
falling but she does not recall feeling intoxicated. She does 
not remember the fall and denies having felt lightheaded. She 
remembers waking up on the ground and activating her lifeline. 
There was bloody discharge from her R ear. She also bit her 
tongue when she fell.

Pt reports that she drinks 1 bottle of wine every day.  She 
cannot recall the last time she did not drink a bottle of wine. 
She has had many falls, on average ___ times per month.  All of 
them occur just as this one did.

She was brought by ambulance to the OSH ED where a CT scan 
revealed a R temporal bone fracture and SAH w/ blood in the 
sylvian fissure. Pt was transferred to ___ where she was 
evaluated in the ED.  Vitals in the ED were T 98.4, HR 99, BP 
122/74, O2 99% on RA.  She was seen by neurosurgery who found 
her to have a non-focal neuro exam. It was recommended that she 
be placed on keppra seizure prophylaxis and she was given one 
dose of 500 mg. She was also given Baclofen 10 mg and Tylenol 
___ mg. Repeat head CT showed no progression of bleeding. Pt was 
also seen by ENT for temporal bone fracture. She was found to 
have +EtOH in serum and deemed unsafe to return home, so was 
admitted to medicine.

Vital signs on transfer are T 97.8, HR 61, BP 150/48, O2 100% 
RA.  She denies headache.  She states that she was a little 
nauseaus before but this is now resolved.  She has also had a 
productive cough since arriving at the ___.  She denies 
chest pain, palpitations, neck pain, weakness, or numbness.  She 
has been hospitalized for withdrawals in the past, most recently 
___ years ago.  She has never had a seizure frm withdrawal before.
 
Past Medical History:
-- Hypertension,  
-- depression,  
-- hypothyroidism,  
-- gout,  
-- gastritis
 
Social History:
___
Family History:
Brother and sister w/ DM
Sister w/ CAD
 
Physical Exam:
ADMISSION EXAM:
Vitals - T: 97.8 BP: 150/48 HR: 61 02 sat: 100/RA
GENERAL: NAD
HEENT: Tender nodule on R cranium at site of trauma, 3x3 cm area 
of ecchymosis by R eye, EOMI, PERRL,  sclera, MMM, tongue w/ 
abrasion on L side, L TM clear, R ear canal with dried blood and 
hemotympanum w/ TM perforation and blood extrusion  
NECK: nontender supple neck, no pain w/ active ROM
CARDIAC: RRR, S1/S2, ___ SEM @ LUSB  
LUNG: CTAB, no wheezes, rales, rhonchi  
ABDOMEN: nondistended, +BS, nontender in all quadrants
GU: Foley in place
EXTREMITIES: strength ___ in all extremities, no cyanosis, 
clubbing or edema
PULSES: 2+ DP pulses bilaterally
NEURO: CN II-XII intact, mae, ambulates well with cane. 
- c-spine nontender to palpation over spinous processes

DISCHARGE EXAM:
Vitals:  Tm 98.3 Tc 97.4 BPs 100s-110s/40s-50s RR 18 O2 100% RA
Exam:  
GENERAL - Alert, interactive, well-appearing in NAD
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear, battle's 
sign and racoon eye on R
HEART - RRR, nl S1-S2, ___ SEM @ LUSB
LUNGS - CTAB
ABDOMEN - soft/NT/ND
EXTREMITIES - WWP, no c/c, no edema  
NEURO - awake, A&Ox3, CNs II-XII intact (including CN VII)
 
Pertinent Results:
ADMISSION LABS:
___ 07:10PM   GLUCOSE-128* UREA N-19 CREAT-0.7 SODIUM-129* 
POTASSIUM-4.5 CHLORIDE-93* TOTAL CO2-23 ANION GAP-18
___ 07:10PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:10PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 07:10PM   WBC-5.7 RBC-3.60* HGB-12.8 HCT-37.9 MCV-105*# 
MCH-35.5*# MCHC-33.7 RDW-12.4
___ 07:10PM   NEUTS-81.6* LYMPHS-10.5* MONOS-6.8 EOS-0.8 
BASOS-0.3
___ 07:10PM   PLT COUNT-176
___ 07:10PM   ___ PTT-30.3 ___
___ 07:10PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:10PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-TR KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG

ADMISSION IMAGING:
___ ___:
1. Stable focus of subarachnoid blood within the right sylvian 
fissure underlying a fracture of the right temporal bone. No new 
foci of intracranial hemorrhage identified. 
2.  Fracture of the right temporal bone extends from the 
squamous portion, into the mastoid portion and ends in the 
petrous portion of the temporal bone at the level of the 
ossicles. Fluid is seen within the right mastoid air cells and 
right middle ear cavity. 
3.  Stable scalp hematoma overlying the right temporal bone 
fracture.  Small scalp hematoma over the left parietal bone.

DISCHARGE LABS:
___ 07:35AM BLOOD Glucose-96 UreaN-19 Creat-0.8 Na-131* 
K-4.0 Cl-95* HCO3-25 AnGap-___ w/ PMH sig for alcoholism and HTN who is transferred from 
OSH w/ R temporal bone fracture and SAH after fall w/ head 
strike.

ACTIVE ISSUES:
# SAH: CT scan of head showed stable right sylvian fissure 
bleeding in setting of fall. Pt evaluated by neurosurgery in ED 
who felt that operative management was not necessary. 
Recommended 500 mg Keppra BID x10 days for seizure prophylaxis. 
C-spine cleared clinically.

# R temporal bone fracture: Pt evaluated by ENT in ED. If facial 
nerve weakness develops, pt may benefit from treatment with 
steroids per ENT. Pt placed on CSF leak precautions: HOB 
elevation, standing stool softeners, sneeze with mouth open, no 
nose blowing. Also placed on ciprofloxacin and dexamethasone 
otic drops. Pt discharged on ofloxacin 0.3% otic drops per ENT 
team. Pt should keep ear dry until follow up (cotton ball in 
ear, then vaseline smeared over ear and cotton when washing 
hair). Pt should have audiogram in 1 wk and f/u with ENT in ___ 
wks. Instructions given on how to follow up.

# Syncope: Most likely ___ to intoxication and possibly volume 
depletion (hyponatremic and BUN:Cr ratio >20). Alcohol level 150 
on admission. Received 1 L NS first night of admission. Feels 
steady on feet, not light-headed. EKG w/o arrythmia, ischemia. 
No events on telemetry.

# HTN: Home antihypertensives (HCTZ, lisinopril, and metoprolol) 
administered. BP fell from 150s systolic to 100s. Pt not 
symptomatic with this. She is not currently seen by a primary 
care provider but gets prescriptions refilled for these meds. Pt 
instructed to discontinue these meds and see a primary care 
doctor to check her BP within 1 wk.

# Alcohol abuse: Pt on CIWA scale. No benzodiazepines 
administered. Pt declines detox at this time. She was counseled 
about the dangers of heavy alcohol use and instructed to seek 
professional help to remain sober.

CHRONIC ISSUES:
#Depression: Stable. Continued on fluoxetine 80 mg QD.

#Insomnia: Stable. Continued on trazodone 100 mg QHS.

#Hypothyroidism: Stable. Continued on levothyroxine 125 mcg QD.

TRANSITIONAL ISSUES:
-- Pt will need audiogram in 1 wk and ENT f/u for temporal bone 
fracture in ___ wks
-- Pt will need to see a primary care doctor in 1 wk to check 
her BP
-- Sobriety will be an ongoing issue for her.  She understands 
the risks of drinking and will discuss with her new PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 20 mg PO DAILY 
2. Fluoxetine 80 mg PO DAILY 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. TraZODone 100 mg PO HS 
7. Colchicine 0.6 mg PO BID:PRN Gout 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Fluoxetine 80 mg PO DAILY 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. TraZODone 100 mg PO HS 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
6. LeVETiracetam 500 mg PO BID Duration: 9 Days 
RX *levetiracetam 500 mg 1 tablet(s) by mouth twice a day Disp 
#*18 Tablet Refills:*0
7. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
8. ofloxacin 0.3 % otic TID 
4 drops in each ear 
RX *ofloxacin 0.3 % 4 drops both ears three times a day 
Refills:*0
9. Colchicine 0.6 mg PO BID:PRN Gout 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
Subarachnoid hemorrhage
Temporal bone fracture
Syncope

SECONDARY DIAGNOSES
Alcoholism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were hospitalized because you had a fall with a fracture of 
your skull and some bleeding around your brain. You were seen by 
the neurosurgeons who did not feel that you needed surgery but 
recommended that you take Keppra for 10 days to prevent 
seizures. You were also seen by the ENT doctors who recommended 
that you take the following precautions to prevent a leak of the 
fluid around your brain: keeping the head of your bed elevated, 
taking stool softeners, sneezing with your mouth open, and not 
blowing your nose. They also recommended that you use ofloxacin 
0.3% drops in your ears to prevent an infection. You should keep 
your ear canal dry by placing a cotton ball in the ear canal and 
putting vaseline on the outside of the cotton ball and ear canal 
when you wash your hair. 

On your last day in the hospital, your blood pressures was low 
so we cut back your blood pressure medications.  Please stop 
taking these medications until you are evaluated by the 
prescribing doctor or another healthcare provider.

As you know, drinking alcohol in large quantities is detrimental 
for your health and may lead to death.  We recommend that you 
refrain from drinking and seek professional care to remain 
sober, as abstinence is essential to avoid further injury and 
detriment (including death) from alcohol.

Finally, if you should have any signs or symptoms of alcohol 
withdrawal (tremors, confusion, hallucinations), be sure to go 
directly to a local emergency room.
 
Followup Instructions:
___